US07622480B2
H. Preparation of 3-{4-[1-(2-methoxyethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-piperidin-1-ylmethyl}-benzoic acid methyl ester
0.42 g (1.62 mmol) of 1-(2-methoxyethyl)-3-piperidin-4-yl-1H-pyrrolo[2,3-b]pyridine and 0.45 g (1.94 mmol) of 3-bromomethylbenzoic acid methyl ester were solved in 9 ml of 4-methyl-2-butanone and 0.67 g (4.86 mmol) of potassium carbonate and 0.02 g (0.16 mmol) of sodium iodide were added. The mixture was refluxed for 18 hours and, after cooling, water was added, the organic layer separated and washed with water and brine. The solvent was distilled off. The crude material weighed 0.67 g and was used in the following step without further purification.

reactant | 1-(2-methoxyethyl)-3-piperidin-4-yl-1H-pyrrolo[2,3-b]pyridine | 1.62 mmol, 0.42 g | COCCN1C=C(C=2C1=NC=CC2)C2CCNCC2 | C15H21N3O
reactant | 3-bromomethylbenzoic acid methyl ester | 1.94 mmol, 0.45 g | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
reactant | potassium carbonate | 4.86 mmol, 0.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.16 mmol, 0.02 g | [I-].[Na+]
solvent | 4-methyl-2-butanone | 9 ml | CCCC(C)=O | C5H10O
solvent | water | O | H2O
product | 3-{4-[1-(2-methoxyethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-piperidin-1-ylmethyl}-benzoic acid methyl ester | COC(C1=CC(=CC=C1)CN1CCC(CC1)C1=CN(C2=NC=CC=C21)CCOC)=O | C24H29N3O3
